US07271191B2
Step 1: 2-Bromo-6-(1H-imidazol-1-ylcarbonyl)pyridine
6-Bromopicolinic acid (4.015 g 19.8 mmol) was mixed with dichloromethane (16 ml), and carbonyl diimidazole (5.147 g, 31.7 mmole) was added to the suspension. After stirring overnight, the solution was washed with saturated sodium hydrogen carbonate solution (25 ml) and water (15 ml), dried over MgSO4 and evaporated to a brown oil (3.91 g 78%). The resulting activated acid was used directly in the next step.

reactant | 6-Bromopicolinic acid | 19.8 mmol, 4.015 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | carbonyl diimidazole | 31.7 mmole, 5.147 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | 2-Bromo-6-(1H-imidazol-1-ylcarbonyl)pyridine | BrC1=NC(=CC=C1)C(=O)N1C=NC=C1 | C9H6BrN3O
